US07338960B2
3-Methyl-1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}-1-butanol
Prepared from 6-[4-(trifluoromethyl)phenyl]-2-pyridinecarbaldehyde (500 mg, 1.99 mmol) in Et2O (20 mL) and isobutylmagnesium bromide (1.1 mL of a 2M solution in Et2O, 2.2 mmol) according to the procedure used for the preparation of Intermediate 47 to give, after purification by SPE (silica, 10 g cartridge) eluting with cyclohexane:EtOAc (gradient 99:1 to 4:1) the title compound as a white crystalline solid (215 mg).

reactant | 6-[4-(trifluoromethyl)phenyl]-2-pyridinecarbaldehyde | 1.99 mmol, 500 mg | FC(C1=CC=C(C=C1)C1=CC=CC(=N1)C=O)(F)F | C13H8F3NO
solvent | Et2O | 20 mL | CCOCC | C4H10O
solvent | isobutylmagnesium bromide | C(C(C)C)[Mg]Br
product | 3-Methyl-1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}-1-butanol | CC(CC(O)C1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F)C | C17H18F3NO
